US08133909B2
N-Benzothiazol-6-yl-2-(2-methoxy-phenyl)-N-[2-(4-trifluoromethyl-phenyl)-ethyl]-acetamide
In analogy to example 33, step 2, without TFA addition, benzothiazol-6-yl-[2-(4-trifluoromethyl-phenyl)-ethyl]-amine was coupled to (2-methoxy-phenyl)-acetic acid (commercially available) to provide the title compound. MS m/e: 471.0 [M+H]+.

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | benzothiazol-6-yl-[2-(4-trifluoromethyl-phenyl)-ethyl]-amine | S1C=NC2=C1C=C(C=C2)NCCC2=CC=C(C=C2)C(F)(F)F | C16H13F3N2S
reactant | (2-methoxy-phenyl)-acetic acid | COC1=C(C=CC=C1)CC(=O)O | C9H10O3
product | N-Benzothiazol-6-yl-2-(2-methoxy-phenyl)-N-[2-(4-trifluoromethyl-phenyl)-ethyl]-acetamide | S1C=NC2=C1C=C(C=C2)N(C(CC2=C(C=CC=C2)OC)=O)CCC2=CC=C(C=C2)C(F)(F)F | C25H21F3N2O2S
